US06777554B2
Sesamol (4.32 g, 31.2 mmol) was added to a solution of tetrabutylammonium hydroxide in isopropanol/methanol (0.1N, 342 mL), and the solvents were evaporated under vacuum to dryness. The residual tetrabutylammonium salt of sesamol was dissolved in acetonitrile (40 mL) and 4-(4-fluorophenyl)-3-chloromethyl-N-methyl-piperidine (CIPMA) (7.5 g, 31.2 mmol) was added. The reaction mixture was stirred with heating at reflux for 4 hours. After cooling, the reaction mixture was evaporated to dryness in vacuum and the residue was dissolved in toluene. The toluene solution was washed with 5% aq. sodium hydroxide and then with water. After drying with sodium sulfate and evaporation of the solvent in vacuum, N-methylparoxetine (8.1 grams) was obtained with yield 76%.

reactant | Sesamol | 31.2 mmol, 4.32 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | tetrabutylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-(4-fluorophenyl)-3-chloromethyl-N-methyl-piperidine | 31.2 mmol, 7.5 g | FC1=CC=C(C=C1)C1C(CN(CC1)C)CCl | C13H17ClFN
solvent | isopropanol methanol | 0.1N, 342 mL | C(C)(C)O.CO
product | N-methylparoxetine | 8.1 grams, yield 76% | CN1CC[C@H]([C@@H](C1)COC2=CC3=C(C=C2)OCO3)C4=CC=C(C=C4)F | C20H22FNO3
